US07300945B2
4) Preparation of 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid amide
A solution of 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid ethyl ester (190 mg) in 5 mL of MeOH is saturated with NH3 gas, and heated at 60° C. in a sealed tube overnight. After cooled, the reaction mixture is transferred to a round bottle flask and evaporated in vacuo to a solid. LRMS calcd 194, found 195 (MH+).

reactant | 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid ethyl ester | 190 mg | C(C)OC(=O)C=1N=C(SC1)C=1NC=CN1 | C9H9N3O2S
reactant | NH3 | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid amide | N1C(=NC=C1)C=1SC=C(N1)C(=O)N | C7H6N4OS
